US04094886
In accordance with the process of Preparation 1, 5-benzyloxy-3-oxo-heptenoic acid methyl ester (1.07 g; 4.1 mmol), p-toluene-sulfonyl azide (810 mg; 4.1 mmol) and triethylamine (450 mg; 4.5 mmol) were used as starting materials to obtain 1.16 g of 5-benzyloxy-2-diazo-3-oxo-6-heptenoic acid methyl ester as a yellow oily product.

reactant | 5-benzyloxy-3-oxo-heptenoic acid methyl ester | 4.1 mmol, 1.07 g | COC(CC(C=C(CC)OCC1=CC=CC=C1)=O)=O | C15H18O4
reactant | p-toluene-sulfonyl azide | 4.1 mmol, 810 mg | C1(=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-])C | C7H7N3O2S
reactant | triethylamine | 4.5 mmol, 450 mg | C(C)N(CC)CC | C6H15N
product | 5-benzyloxy-2-diazo-3-oxo-6-heptenoic acid methyl ester | 1.16 g | COC(C(C(CC(C=C)OCC1=CC=CC=C1)=O)=[N+]=[N-])=O | C15H16N2O4
